US04138403
Methyl 3-methoxymethyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]heptane-2-carboxylate
Methyl 4-methoxy-trans-crotonate (6.5 g, 50 m.mole) and N-bromoacetamide (7.6 g, 55 m.mole) were dissolved together in peroxide-free dioxane (30 ml) and water (12 ml) was added. The solution was kept at room temperature in the dark for 7 days. The resulting clear, colourless solution was diluted with ether (150 ml) and washed three times with water (50 ml portions). The solution was dried (MgSO4) and the solvent removed under reduced pressure to yield a colourless oil (9.47 g) which was chromatographed on silica-gel (elution with ethyl acetate/petroleum ether) to give the erythro bromohydrin (e2) as a colourless oil (3.46 g, 30.5%).

reactant | Methyl 4-methoxy-trans-crotonate | 6.5 g | COC/C=C/C(=O)OC | C6H10O3
reactant | N-bromoacetamide | 7.6 g | BrNC(C)=O | C2H4BrNO
reactant | water | 12 ml | O | H2O
reactant | ether | 150 ml | CCOCC | C4H10O
product | Methyl 3-methoxymethyl-7-oxo-4-oxa-1-azabicyclo[3.2.0]heptane-2-carboxylate | 9.47 g | COCC1C(N2C(CC2O1)=O)C(=O)OC | C9H13NO5
